US03951952
2. Benzimidoylaminoacetyl Chloride Hydrochloride
To benzimidoylaminoacetic acid hydrochloride (2.2 g., 10 m moles) in 40 ml. of dry methylene chloride is added 2.5 g. (12 m moles) of phosphorous pentachloride, and the reaction mixture allowed to stir overnight at room temperature. The product is filtered, washed successively with methylene chloride (50 ml.), chloroform 2 × 75 ml.) and hexane (50 ml.) and dried in vacuo, 2.5 g. (99% yield).

reactant | benzimidoylaminoacetic acid hydrochloride | 2.2 g | Cl.C(C1=CC=CC=C1)(=N)NCC(=O)O
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzimidoylaminoacetyl Chloride Hydrochloride | 99% yield | Cl.C(C1=CC=CC=C1)(=N)NCC(=O)Cl | InChI=1S/C9H9ClN2O.ClH/c10-8(13)6-12-9(11)7-4-2-1-3-5-7;/h1-5H,6H2,(H2,11,12);1H
